US04093632
Preparation of 2(S)-[2(R)-hydroxy-3(E)-pentenyl]-2,5,7,8-tetramethyl-6-benzyloxychroman
To a solution of 5.0 g. (13.32 mmol) of 2(S)-[2(R)-hydroxy-3-pentynyl]-2,5,7,8-tetramethyl-6-benzyloxy-chroman in 50 ml. of dry ether was carefully added 4.06 ml. of sodium bis(2-methoxyethoxy)-aluminum hydride (29 mg. - atm. of hydrogen) in 10 ml. of dry ether. The resulting solution was refluxed under argon for 17 hours. The solution was cooled in an ice bath and 10% by volumn aqueous H2SO4 solution (100 ml.) was carefully added. It was filtered, washed with ether and water. The aqueous phase was again extracted with ether (3 × 100 ml.). The combined ether phase was washed with saturated aqueous NaHCO3 solution (3 × 50 ml.) and water (3 × 50 ml.) and dried over MgSO4. Evaporation of ether to dryness at reduced pressure yielded 5.206 g. of crude product which was crystallized from petroleum ether (b.p. 30°-60° C.) to give 4.23 g. of 2(S)-[2(R)-hydroxy-3(E)-pentynyl]-2,5,7,8-tetramethyl-6-benzyloxychroman as white needles, m.p. 68°-70° C. [α]D25 -24.02° (CHCl3).

reactant | 2(S)-[2(R)-hydroxy-3-pentynyl]-2,5,7,8-tetramethyl-6-benzyloxy-chroman | 13.32 mmol | O[C@H](C[C@]1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C)C#CC | C25H30O3
reactant | ether | CCOCC | C4H10O
reactant | sodium bis(2-methoxyethoxy)-aluminum hydride | 29 mg | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2(S)-[2(R)-hydroxy-3(E)-pentenyl]-2,5,7,8-tetramethyl-6-benzyloxychroman | O[C@H](C[C@]1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C)\C=C\C | C25H32O3
